US07524847B2
4-(2-Chloro-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester
2,6-Dichloropurine [CAS No. 5451-40-1] (5.0 g) was dissolved in acetonitrile (70 mL), and then piperazine-1-carboxylic acid t-butyl ester (4.93 g) and triethylamine (4.1 mL) were added to this solution, and the reaction solution was stirred at room temperature for 22 hours. Water (200 mL) was added to the reaction solution, and this was stirred at room temperature for one hour, and then the white precipitate was collected by filtration. The white solid obtained was washed with water and hexane to give the title compound (8.5 g).

reactant | 2,6-Dichloropurine | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | piperazine-1-carboxylic acid t-butyl ester | 4.93 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 200 mL | O | H2O
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 4-(2-Chloro-9H-purin-6-yl)piperazine-1-carboxylic acid t-butyl ester | 8.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=CNC2=NC(=N1)Cl | C14H19ClN6O2
